US05449676
2. 3-Amino-6-[4-methoxy-3-(2-methylpropoxy)phenyl]pyridazine
7.0 g (24 mmol) of 3-chloro-6-[4-methoxy-3-(2-methylpropoxy)phenyl]pyridazine are reacted as described in Example 1 in 40 ml of ammonia-saturated ethylene glycol. The crude product obtained by precipitation with water is dissolved in chloroform, the solution is dried with potassium carbonate, and the product is precipitated with petroleum ether (b.p. 50°-70° C.). 3.5 g (53.8%) of the title compound of m.p. 187° C. are obtained.

reactant | 3-chloro-6-[4-methoxy-3-(2-methylpropoxy)phenyl]pyridazine | 24 mmol, 7.0 g | ClC=1N=NC(=CC1)C1=CC(=C(C=C1)OC)OCC(C)C | C15H17ClN2O2
reactant | water | O | H2O
reactant | ammonia | 40 ml | N | H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Amino-6-[4-methoxy-3-(2-methylpropoxy)phenyl]pyridazine | 3.5 g, 53.8% | NC=1N=NC(=CC1)C1=CC(=C(C=C1)OC)OCC(C)C | C15H19N3O2
